US08492549B2
(R)-2,3-Dihydro-benzo[1,4]dioxin-2-yl-[(R*)-3-(3-fluoromethoxy-phenyl)-piperidin-1-yl]-methanone
Bromofluoromethane-pyridinium adduct (excess) was condensed in a vial. (R)-2,3-Dihydro-benzo[1,4]dioxin-2-yl-[(R*)-3-(3-hydroxy-phenyl)-piperidin-1-yl]-methanone (1.84 mmol, 0.623 g) and K2CO3 (3.67 mmol, 0.507 mmol) were added and the tube was sealed. Acetonitril (5 ml) was added. The reaction was stirred at 120° C. for 60 min. After cooling, the mixture was evaporated to dryness, taken up in DCM and washed with water. The organic phase was evaporated to dryness. 0.680 g of the title compound was obtained.

reactant | Bromofluoromethane pyridinium | BrCF.[NH+]1=CC=CC=C1
reactant | (R)-2,3-Dihydro-benzo[1,4]dioxin-2-yl-[(R*)-3-(3-hydroxy-phenyl)-piperidin-1-yl]-methanone | 1.84 mmol, 0.623 g | O1[C@H](COC2=C1C=CC=C2)C(=O)N2C[C@H](CCC2)C2=CC(=CC=C2)O | C20H21NO4
reactant | K2CO3 | 3.67 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | Acetonitril | 5 ml | C(C)#N | C2H3N
product | (R)-2,3-Dihydro-benzo[1,4]dioxin-2-yl-[(R*)-3-(3-fluoromethoxy-phenyl)-piperidin-1-yl]-methanone | 0.680 g | O1[C@H](COC2=C1C=CC=C2)C(=O)N2C[C@H](CCC2)C2=CC(=CC=C2)OCF | C21H22FNO4
